US04192871
11β-Chloroacetoxy-3α-hydroxy-5α-pregnan-20-one
Saturated sodium bicarbonate solution (200 ml) was added slowly to a stirred refluxing solution of 3α,11β-bischloroacetoxy-5α-pregnan-20-one (89 g) in methanol (1800 ml). After about 3.5 hours the mixture was evaporated to half its volume, water was added and the steroid was extracted with ethyl acetate. The washed and dried extract was evaporated in vacuo, the residue was filtered through a short column of silica in ethyl acetate-petroleum ether (1:1) and crystallised from ethyl acetate-petroleum ether to afford title compound (59 g), m.p. 83°-86°, [α]D +101° (c 1.0).

reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | 3α,11β-bischloroacetoxy-5α-pregnan-20-one | 89 g | ClCC(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(CC1)C)OC(CCl)=O)C | C25H36Cl2O5
solvent | methanol | 1800 ml | CO | CH4O
product | 11β-Chloroacetoxy-3α-hydroxy-5α-pregnan-20-one | 59 g | ClCC(=O)O[C@@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O)C | C23H35ClO4
